US08048878B2
Synthesis of 5-(3,4-difluorophenyl)hexahydroindolizine-3,7-dione
To a solution of 4-methoxypyridine (2.7 g) in tetrahydrofuran (50 mL), 3,4-difluorophenylmagnesium bromide (0.5 M solution in tetrahydrofuran; 50 mL) was added dropwise at −40° C. to −20° C. over 10 minutes. To this solution, 3-bromopropionyl chloride (2.49 mL) was added dropwise at −40° C. to −20° C., and the reaction solution was stirred at −20° C. for 30 minutes. The reaction solution was poured into a 10% hydrochloric acid solution, and the mixture was stirred for 20 minutes, followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 3.4 g of 1-(3-bromopropionyl)-2-(3,4-difluorophenyl)-2,3-dihydro-1H-pyridin-4-one. A solution of tributyltin hydride (5.75 mL) and 2,2′-azobis(isobutyronitrile) (0.657 g) in benzene (50 mL) was added dropwise to a solution of 1-(3-bromopropionyl)-2-(3,4-difluorophenyl)-2,3-dihydro-1H-pyridin-4-one obtained above (3.4 g) in benzene (50 mL) at 90° C. over four hours. The reaction solution was stirred at the same temperature for three hours. The reaction solution was returned to room temperature and poured into water, followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 1.4 g of the title compound. The property value of the compound is as follows.

reactant | tributyltin hydride | 5.75 mL | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobis(isobutyronitrile) | 0.657 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 1-(3-bromopropionyl)-2-(3,4-difluorophenyl)-2,3-dihydro-1H-pyridin-4-one | BrCCC(=O)N1C(CC(C=C1)=O)C1=CC(=C(C=C1)F)F | C14H12BrF2NO2
reactant | water | O | H2O
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 5-(3,4-difluorophenyl)hexahydroindolizine-3,7-dione | 1.4 g | FC=1C=C(C=CC1F)C1N2C(CCC2CC(C1)=O)=O | C14H13F2NO2
